US05072040
Preparation of lithium bis(trifluoromethanesulfonyl)imide
22 ml of trifluoromethanesulfonyl chloride were added to a suspension of 3.5 g of lithium nitride in 100 ml of a mixture of DMF and DME (50/50). The nitride dissolved in a few minutes with stirring at ambient temperature. The reaction took place according to the following reaction scheme:

reactant | trifluoromethanesulfonyl chloride | 22 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | lithium nitride | 3.5 g | [Li+].[Li+].[Li+].[NH2-]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DME | COCCOC | C4H10O2
product | lithium bis(trifluoromethanesulfonyl)imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+] | InChI=1S/C2F6NO4S2.Li/c3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/q-1;+1
